US07884207B2
Triethylorthopropionate (2.4 mL, 12.0 mmol) and pyridine hydrochloride (60 mg, 0.5 mmol) were added to a suspension of 4-[(3-aminoquinolin-4-ylamino)methyl]tetrahydropyran-4-ol (10.0 mmol) in toluene (50 mL). The reaction mixture was heated at reflux for 2.5 hours and then concentrated under reduced pressure. The residue was triturated with acetonitrile and the filtered to provide 4-[(2-ethyl-1H-imidazo[4,5-c]quinolin-1-yl)methyl]tetrahydro-2H-pyran-4-ol as a tan solid.

reactant | Triethylorthopropionate | 12.0 mmol, 2.4 mL | C(C)OC(CC)(OCC)OCC | C9H20O3
reactant | pyridine hydrochloride | 0.5 mmol, 60 mg | Cl.N1=CC=CC=C1
reactant | 4-[(3-aminoquinolin-4-ylamino)methyl]tetrahydropyran-4-ol | 10.0 mmol | NC=1C=NC2=CC=CC=C2C1NCC1(CCOCC1)O | C15H19N3O2
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | 4-[(2-ethyl-1H-imidazo[4,5-c]quinolin-1-yl)methyl]tetrahydro-2H-pyran-4-ol | C(C)C=1N(C2=C(C=NC=3C=CC=CC23)N1)CC1(CCOCC1)O | C18H21N3O2
